US07429665B2
1-(4-(benzyloxy)phenyl)-2-bromo-2-(pyridin-4-yl)ethanone
To a solution of 1-(4-(benzyloxy)phenyl)-2-(pyridin-4-yl)ethanone (1.39 g, 4.58 mmol) in acetic acid was added a solution of bromine (0.72 g, 4.58 mmol) in acetic acid (3 mL). After stirring 2 h, the solid was collected via filtration and washed with acetic acid to provide 1.67 g (96%) of the title compound as a pale yellow solid. 1H NMR (400 MHz, DMSO) δ: 5.21 (s, 1H), 7.15 (d, 2H), 7.42 (m, 3H), 7.87 (m, 1H), 8.06 (d, 2H), 8.77 (m, 1H). MS m/z: 382 [M+1]+.

reactant | 1-(4-(benzyloxy)phenyl)-2-(pyridin-4-yl)ethanone | 4.58 mmol, 1.39 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC1=CC=NC=C1)=O | C20H17NO2
reactant | bromine | 4.58 mmol, 0.72 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 1-(4-(benzyloxy)phenyl)-2-bromo-2-(pyridin-4-yl)ethanone | 1.67 g, 96% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C1=CC=NC=C1)Br)=O | C20H16BrNO2
